US04146647
N-(2,6-Dichlorophenyl)-N'-hydroxy-guanidine hydrochloride
A solution of 34.7 g (0.5 mol) of hydroxylamine hydrochloride in methanol and a solution of 27 g (0.5 mol) of sodium methylate in methanol is mixed whilst cooling by means of an ice bath. The NaCl is filtered off and the filtered solution is introduced into a 2,000 ml Erlenmeyer flask with magnetic stirring and cooling by means of an ice bath. A solution of 39.6 g (0.21 mol) of 2,6-dichlorophenyl-cyanamide in CH3OH is run into the preceding solution and the mixture is stirred at ambient temperature (15°-25° C.) overnight. A small amount of insoluble matter is filtered off. To the methanol solution is added twice its volume of distilled water. An insoluble material is filtered off and discarded. The filtrate is placed in a freezer for 3 hours and an insoluble material is filtered off and discarded. The filtrate is evaporated to dryness. The residue is taken up in 1,000 ml of water and the medium is rendered acid with concentrated HCl. An insoluble material is filtered off and discarded. The liquid phase is washed with ether and the pH is brought to 8 with NaOH, taking care not to exceed this value. The mixture is extracted with ether. The ether is dried over MgSO4 and the hydrochloride of the product is precipitated from the ether by bubbling-in HCl gas.

reactant | hydroxylamine hydrochloride | 0.5 mol, 34.7 g | Cl.NO
reactant | sodium methylate | 0.5 mol, 27 g | C[O-].[Na+]
reactant | 2,6-dichlorophenyl-cyanamide | 0.21 mol, 39.6 g | ClC1=C(C(=CC=C1)Cl)NC#N | C7H4Cl2N2
solvent | methanol | CO | CH4O
product | N-(2,6-Dichlorophenyl)-N'-hydroxy-guanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)NO | InChI=1S/C7H7Cl2N3O.ClH/c8-4-2-1-3-5(9)6(4)11-7(10)12-13;/h1-3,13H,(H3,10,11,12);1H
